US05208250
5-[(2-Methoxyphenyl)methylene]-2-thioxo-4-imidazolidinone
A mixture of 2-methoxybenzaldehyde (2.5 g, 18 mmoles), 2-thiohydantoin (2.0 g, 17 mmoles), sodium acetate (4.0 g, 49 mmoles), acetic anhydride (1/2 ml), and acetic acid (15 ml) is stirred under an inert atmosphere and heated to reflux. After 1 hour the mixture is stirred into water (300 ml), and the precipitate is filtered off, rinsed with water three times and dried. The product is triturated in boiling methanol, filtered off, and dried to afford the pure product (3.4 g), mp 234°-235° C.

reactant | 2-methoxybenzaldehyde | 18 mmoles, 2.5 g | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | 2-thiohydantoin | 17 mmoles, 2.0 g | N1C(=S)NC(=O)C1 | C3H4N2OS
reactant | sodium acetate | 49 mmoles, 4.0 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 1/2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 300 ml | O | H2O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 5-[(2-Methoxyphenyl)methylene]-2-thioxo-4-imidazolidinone | 3.4 g | COC1=C(C=CC=C1)C=C1C(NC(N1)=S)=O | C11H10N2O2S
